US07601850B2
B. 4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-benzoic acid methyl ester
A mixture of trifluoromethanesulfonic acid 4-[1-ethyl-1-(4-methyl-thiophen-2-yl) propyl]-2-methyl-phenyl ester (12 g, 29.62 mmol), Pd(OAc)2 (699 mg, 3 mmol), dppf (3.3 g, 6 mmol), triethylamine (12.5 ml, 90 mmol), methanol (12 ml, 300 mmol), and N,N-dimethylformamide (40 ml) is treated with carbon monoxide (1000 psi) at 110° C. in a Parr-reactor for 48 h. The reaction is concentrated, dissolved in is evaporated in EtOAc and filtered through a silica gel pad. The filtrate is concentrated and chromatographed (Hex to 10% EtOAc/Hex) to give the title compound (6.9 g, 73%).

reactant | trifluoromethanesulfonic acid 4-[1-ethyl-1-(4-methyl-thiophen-2-yl) propyl]-2-methyl-phenyl ester | 29.62 mmol, 12 g | C(C)C(CC)(C=1SC=C(C1)C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C18H21F3O3S2
reactant | triethylamine | 90 mmol, 12.5 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 300 mmol, 12 ml | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
catalyst | Pd(OAc)2 | 3 mmol, 699 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | dppf | 6 mmol, 3.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-benzoic acid methyl ester | 6.9 g, 73% | COC(C1=C(C=C(C=C1)C(CC)(C=1SC=C(C1)C)CC)C)=O | C19H24O2S
